US08236959B2
A 5 liter 4-necked flask equipped with a mechanical stirrer, thermometer, addition funnel and refluxing condenser was charged with 5-acetyl-8-hydroxyquinoline (300 gms/1.44 moles) and acetone (3 liters). To this solution was added anhydrous potassium carbonate (443 gms/1.6 moles) in 30 minutes followed by benzyl bromide (229 ml/1.92 moles) slowly in 90 minutes. The resulting slurry was heated to reflux for 12 hours. The reaction mass was filtered through hyflo bed, after completion of reaction and washed with hot ethyl acetate (300 ml). The clear filtrate was distilled out completely at 55-60° C. under high vacuum. The residue was dissolved in acetone (300 ml) and warmed to 50° C. for 5-10 minutes, cooled to 25-30° C., chilled further to 0-5° C. and stirred for 30 minutes. The resulting 5-Acetyl-8-benzyloxyquinoline was isolated by filtration and washed with 1:1 mixture of acetone and diisopropyl ether (150 ml) and dried under vacuum at 60-65° C. for 4-5 hours. Yield-202 gms.

reactant | 5-acetyl-8-hydroxyquinoline | 1.44 moles, 300 gms | C(C)(=O)C1=C2C=CC=NC2=C(C=C1)O | C11H9NO2
reactant | potassium carbonate | 1.6 moles, 443 gms | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.92 moles, 229 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 3 liters | CC(=O)C | C3H6O
product | 5-Acetyl-8-benzyloxyquinoline | C(C)(=O)C1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1 | C18H15NO2
